US07595327B2
To a solution of methyl (1R,2R)-2-({[4-(benzyloxy)phenyl]sulfonyl}amino)-1-fluorocyclopentanecarboxylate in EtOAc/CH2Cl2/MeOH (5 mL/2 mL/10 mL) was added 10% Pd/C (0.14 g). The reaction vessel was purged with nitrogen followed by hydrogen. The reaction was stirred for 1 h under 1 atmosphere of hydrogen, and then filtered through celite and concentrated to afford methyl (1R,2R)-1-fluoro-2-{[(4-hydroxyphenyl)sulfonyl]amino}cyclopentanecarboxylate as an amorphous solid (0.433 g, 97%). MS: 318.1 (M+H)+.

reactant | methyl (1R,2R)-2-({[4-(benzyloxy)phenyl]sulfonyl}amino)-1-fluorocyclopentanecarboxylate | C(C1=CC=CC=C1)OC1=CC=C(C=C1)S(=O)(=O)N[C@H]1[C@](CCC1)(C(=O)OC)F | C20H22FNO5S
solvent | EtOAc CH2Cl2 MeOH | 5 mL | CCOC(=O)C.C(Cl)Cl.CO
catalyst | Pd/C | 0.14 g | [Pd] | Pd
product | methyl (1R,2R)-1-fluoro-2-{[(4-hydroxyphenyl)sulfonyl]amino}cyclopentanecarboxylate | 0.433 g, 97% | F[C@]1([C@@H](CCC1)NS(=O)(=O)C1=CC=C(C=C1)O)C(=O)OC | C13H16FNO5S
